US08685970B2
A mixture of methyl 3-hydroxybenzoate (10.0 g, 65.8 mmol), (S)-4-(chloromethyl)-2,2-dimethyl-1,3-dioxolane (13.0 g, 98.7 mmol) and K2CO3 (18.0 g, 132 mmol) in DMF (100 ml) was stirred for 18 h at 160° C. The mixture was diluted with water (150 mL) and adjusted to pH=6 by the addition of 3N HCl. The mixture was extracted with ethyl acetate (200 ml×3) and the combined organic layers were dried (MgSO4) and concentrated under reduced pressure. The residue was purified by column chromatography (10% Ethyl acetate in petroleum ether) to give (R)-methyl 3-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)benzoate as a brown oil, (8.5 g, 49% yield).

reactant | methyl 3-hydroxybenzoate | 65.8 mmol, 10.0 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | (S)-4-(chloromethyl)-2,2-dimethyl-1,3-dioxolane | 98.7 mmol, 13.0 g | ClC[C@H]1OC(OC1)(C)C | C6H11ClO2
reactant | K2CO3 | 132 mmol, 18.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 3N | Cl | ClH
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
product | (R)-methyl 3-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)benzoate | 49% yield | CC1(OC[C@H](O1)COC=1C=C(C(=O)OC)C=CC1)C | C14H18O5
